Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bilateral papilledema
 
Major Surgical or Invasive Procedure:
___ guided Lumbar Puncture 

 
History of Present Illness:
HPI: Mr. ___ is a ___ yo man with bipolar disorder, ADHD who
presented to ED for evaluation of bilateral papilledema.  
Patient
was seen earlier today by ophthalmology after being referred by
optometrist because of findings of disc edema.  Evaluation was
remarkable for bilateral disc edema for which patient was then
referred to the ED for further evaluation.  Patient has history
of headaches for the past ___ weeks which he describes as
right-sided in the temporal area, intermittent, lasting up to 10
minutes in duration, and associated with slight pressure in the
right side near his eye.  Per patient, headache is not 
positional
but he has noted that sometimes when he leans forward this would
trigger a headache that usually resolves within seconds.  
Current
frequency is 2 headaches per day usually in the afternoon or
before going to bed.  Denies using any medications for the
headache as they go away on their own.  There is no history of
similar headaches in the past.  Denies problems with his vision,
double vision, blurred vision, trouble talking, swallowing,
walking.  Denies focal weakness or numbness/tingling sensation. 
Denies dizziness or vertigo.  Denies headaches that wake him up
in the middle of the night.  Denies trauma.  While in the ED a
head CT scan was done which was reported as unremarkable  And
patient has no current concerns or complaints.

As per ophthalmology's note "there is dramatic and marked
elevation of the disc, in the presence of what looks like a
preserved small central cup.  The discs are hyperemic but did 
not
appreciate any significant venous engorgement or ___
hemes.  Do not look like the typical anomalous optic disks were
drusen are seen".

On neuro ROS, the pt denies blurred vision, diplopia, 
dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
ADHD
Bipolar disorder
Sickle cell trait
 
Social History:
___
Family History:
Mother with history of glaucoma.  There is no other
neurological history in the family.
 
Physical Exam:
ADMISSION EXAM: 
Physical Exam:
VS: T:99.3, HR:69, BP:155/95, RR:18, O2: 100% RA 
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 6 to 4 mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed bilateral disc edema (slightly worse on right), no
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch throughout.  

-DTRs:
  Bi  ___ Pat Ach
L  2     2    1   1
R  2     2    1   1
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE EXAMINATION: 
Physical Exam:
VS: T:98.6, HR:62-67, BP:113-143/70-80, ___, O2: 100% RA 
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 6 to 4 mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed bilateral disc edema, no
exudates, or hemorrhages. Visual acuity ___ on R, on left 
visual acuity ___
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch throughout.  

-DTRs:
  Bi  ___ Pat Ach
L  2     2    1   1
R  2     2    1   1
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent. 

 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:05AM    4.4 4.59* 12.6* 37.8* 82 27.5 33.3 12.6 
37.8 267 Import Result 

 
___ 05:05AM    4.7 4.47* 12.2* 37.0* 83 27.3 33.0 12.7 
38.3 269 Import Result 

 
___ 08:55PM    4.6 4.71 12.8* 38.9* 83 27.2 32.9 12.7 
38.5 296 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 08:55PM    49.4   39.7 7.6 2.2 0.9     0.2 2.29 1.84 
0.35 0.10 0.04 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:05AM        267   Import Result 

 
___ 05:05AM    12.9* 29.3   1.2* Import Result 

 
___ 05:05AM        269   Import Result 

 
___ 05:05AM    13.0* 29.0   1.2* Import Result 

 
___ 08:55PM        296   Import Result 

 
___ 08:55PM    13.5* 31.1   1.2* Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___:05AM    87 15 0.8 140 4.0 ___ Import Result 


 
___ 05:05AM    ___ 138 4.2 ___ Import Result 

 
___ 08:55PM    ___ 138 4.3 ___ Import Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 08:55PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 05:05AM    19 17   327* 20*   0.6   Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 05:05AM          9.5 4.6* 1.8     Import Result 

 
___ 05:05AM          9.7 4.0 1.7     Import Result 

 
 PITUITARY TSH 
___ 05:05AM    1.2 Import Result 
 
 
IMAGING: 
1. No evidence of acute infarction, intracranial hemorrhage, 
mass, or abnormal 
enhancement. 
2. Suggestion of 3 mm downward descent of the right cerebellar 
tonsil and 
partial empty sella which are nonspecific findings are 
pseudotumor cerebri. 
3. No evidence of venous sinus thrombosis or stenosis of the 
venous sinuses. 

 
Brief Hospital Course:
___ is a ___ year old gentleman with ADHD, bipolar 
disorder, and sickle trait. He presented from his 
opthalomologist's office who noted bilateral papilledema without 
any visual loss. This was in the setting of the patient having 
new onset headaches over the past few weeks. The patient was 
brought to ___ ED where he was evaluated by Neurology. He 
underwent stat CT head which was negative. He was brought up to 
the neurology service where he remained stable in regards to his 
symptoms. At no point during hospitalization did he have any 
significant visual symptoms or decline in function. The patient 
underwent MRI brain with and without contrast and MRV to look 
for any venous sinus thrombosis. Thankfully, the imaging was 
negative. The patient underwent ___ guided LP (bedside LP failed 
due to body habitus) which revealed an OP of 39.  He was 
initiated on Diamox at 250mg BID with plans to increase to 500mg 
BID in three days. The patient will follow in the neurology 
clinic for management of presumed IIH/ pseduotumor cerebri and 
we also will ensure he follows up with ophthalmology where he 
will require formal visual field testing periodically. 
In addition, he will have labs drawn to ensure his electrolytes 
and bicarbonate levels are not altered while taking Diamox. 

Transitions of care issues: 
1. Please take your new medication Diamox 250mg BID 
2. Please have your labs drawn in a few weeks at the ___ 
laboratory 
3. Please take all of your medications as prescribed
4. Please return for an appointment with your ophthalmologist to 
check your vision
5. Please follow up with us in Neurology in ___ on your 
appointment date 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. guanFACINE 1 mg oral DAILY 
2. Methylphenidate SR 54 mg PO DAILY 

 
Discharge Medications:
1.  AcetaZOLamide 500 mg PO Q12H 
For first 3 days, take half a pill twice a day.  
RX *acetazolamide 500 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*5 
2.  guanFACINE 1 mg oral DAILY  
3.  Methylphenidate SR 54 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Idiopathic intracranial hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you were sent here from 
your ophthalmologist for swelling of your optic discs which was 
concerning for a possible neurologic problem. You had a cat scan 
which was negative. You were next admitted to the neurology 
floor for further work up. You had an MRI of the brain and an 
MRV which was negative for any blood clots. You then had a 
spinal tap / lumbar puncture, first attempted at the bedside 
which was not successful, so you went to interventional 
radiology where they were able to perform the LP. 
You were noted to have high pressure in your nervous system 
which could explain your headaches. You were started on a new 
medication called Diamox, which will dramatically help to 
decrease your headaches and prevent more pressure from building 
up in your eyes to prevent visual loss. In three days you will 
increase the dose to 500mg twice a day. 

You will have your labs drawn in a few weeks to make sure your 
electrolytes are stable while on the medication. You will follow 
up with us here in Neurology in the outpatient setting in 
___. Please take your medications as prescribed. 

Best wishes! 
Your ___ Neurology team 
 
Followup Instructions:
___